Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / Paxil / Wellbutrin
 
Attending: ___.
 
Chief Complaint:
exposed craniotomy hardware
 
Major Surgical or Invasive Procedure:
wound revision and hardware removal

 
History of Present Illness:
This is a ___ year old female with prior surgery which
includes right parietal anaplastic astrocytoma with Craniotomy
for resection on ___ by Dr. ___ in ___ 
followed
by involved-field irradiation to 6,120 cGy ___ in ___,
3 cycles of Temodar ended ___ and a second craniotomy for tumor
recurrence on ___ by Dr. ___ at ___ with PCV(comb chemo)
___ - ___.  

The patient presents today with ___ month history of pruritus on
the top of her head.  She reports that she had her husband look
at the top of her head ___ days ago and saw that metal hardware
from her prior surgery was present.  The patient and her husband
presented to their local Emergency and was told to follow up
here.  The patient denies fever, chills, nausea vomiting, nuchal
rigidity, numbness or tingling sensation, vision or hearing
changes, bowel or bladder incontinence.  She denies new onset
weakness.  She reports baseline tremors in arms due to her
hyperthyroid disease and baseline left sided weakness since her
initial surgery.  She does not ambulate with a walker 

 
Past Medical History:
right parietal anaplastic astrocytoma,Craniotomy ___ by
Dr. ___ in ___ irradiation to 6,120
cGy ___ in ___,3 cycles of Temodar ended ___
craniotomy on ___ by Dr. ___ at ___ ___ -
___ for 2 weeks only ___ disease since ___,
tubal ligation,tonsillectomy, bronchitis, depression.
seizures

 
Social History:
___
Family History:
NC
 
Physical Exam:
O: T:96.7  BP: 139/73  HR:114    R:20    O2Sats: 100% ra
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:3-2mm bilat         EOMs: intact
Neck: Supple.
Extrem: Warm and well-perfused, arms hands tremulous- (patient
states this is her baseline due to hyperthyroid disease)
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,  3 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ on right 4+/5 on left. No
pronator drift

Sensation: Intact to light touch bilaterally.

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

 
Pertinent Results:
CT Head
1. No evidence of abscess formation. 
2. Stable appearance of postoperative changes related to right 
frontal mass resection with residual encephalomalacia and edema 
in a similar distribution as ___ MR exam. 

 
Brief Hospital Course:
patient presented to the ED at ___ on ___ with complaints of 
itchy head and exposed hardware.  She was admitted to the floor 
for observation and pre-operative planning.  On 3.5 she was 
taken to the OR for wound revision and removal of the exposed 
hardware.  She tolerated the procedure well and was transferred 
to the ___ post-operatively.  She was transferred to the floor 
for further management and remained stable.  On the morning of 
___ she was deemed fit for discharge and was given instructions 
for close follow-up of her incision.  
 
Medications on Admission:
azathioprine, Pentasa, topiramate,
alprazolam, omeprazole, zolpidem, venlafaxine hcl er 30,
popylthiouracil, promethazine- patient does not have doses at 
the
time of the exam.

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
2. azathioprine 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. alprazolam 1 mg Tablet Sig: 0.5 Tablet PO TID (3 times a day) 
as needed for anxiety.  
4. promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for nausea.  
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 13 days.
Disp:*52 Capsule(s)* Refills:*0*
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for for sleep.  
9. mesalamine 250 mg Capsule, Extended Release Sig: Two (2) 
Capsule, Extended Release PO QID (4 times a day).  
10. topiramate 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
11. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
12. propylthiouracil 50 mg Tablet Sig: Two (2) Tablet PO Q8H 
(every 8 hours).  
13. venlafaxine 75 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO DAILY (Daily).  
14. venlafaxine 75 mg Capsule, Ext Release 24 hr Sig: Two (2) 
Capsule, Ext Release 24 hr PO DAILY (Daily).  
15. hydrocodone-acetaminophen ___ mg Tablet Sig: ___ Tablets 
PO Q8H (every 8 hours) as needed for back pain.
Disp:*45 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
exposure of craniotomy hardware and infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Have a friend/family member check your incision daily for 
signs of infection.
Take your pain medicine as prescribed.
Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
You may wash your hair only after sutures and/or staples have 
been removed. 
Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
Clearance to drive and return to work will be addressed at 
your post-operative office visit.
Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

New onset of tremors or seizures.
Any confusion or change in mental status. 
Any numbness, tingling, weakness in your extremities.
Pain or headache that is continually increasing, or not 
relieved by pain medication.
Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
Fever greater than or equal to 101 F.

 
Followup Instructions:
___